US07820707B2
2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
To 2-(2-(4-(1-hydroxyethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (1.4 g, 3.36 mmol) in DCM (17 mL) was added a 15 wt % Dess-Martin periodinane in DCM solution (9.51 g, 6.99 mL, 3.36 mmol). The reaction was blanketed with argon and allowed to stir at RT for 6 h. Sodium thiosulfate pentahydrate (5.84 g, 23.53 mmol) was dissolved in water (20 mL) and mixed with saturated aqueous sodium bicarbonate (40 mL) before addition to the reaction mixture. The reaction mixture was allowed to stir for 40 min before the addition of diethyl ether. The aqueous was separated and extracted with diethyl ether (×3). The organics were combined and washed with water (×2) and brine (×1) before drying over MgSO4. The solvent was removed in vacuo to give the title compound as an off white solid (1.2 g, 2.90 mmol, 86%).

reactant | 2-(2-(4-(1-hydroxyethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 3.36 mmol, 1.4 g | OC(C)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C17H19F3N4O3S
reactant | Dess-Martin periodinane | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Sodium thiosulfate pentahydrate | 23.53 mmol, 5.84 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 40 mL | C([O-])(O)=O.[Na+]
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | DCM | 3.36 mmol, 6.99 mL, 9.51 g | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-(4-acetyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | C(C)(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C17H17F3N4O3S
